US09328096B2
2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-5-(3-fluoro-6-(methoxymethyl)pyridin-2-yl)benzamide
To a degassed solution of 2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (Preparation 7, 325 mg, 0.72 mmol), 2-chloro-3-fluoro-6-(methoxymethyl)pyridine (Preparation 52, 191 mg, 1.09 mmol) and potassium carbonate (200 mg, 1.45 mmol) in 1,4-dioxane (5 mL) and water (1 mL) was added Pd(PPh3)4 (83 mg, 0.072 mmol) and the reaction was heated to 80° C. for 18 hours. The reaction was cooled and concentrated in vacuo. The resulting residue was partitioned between EtOAc (15 mL) and water (15 mL). The aqueous layer was extracted with EtOAc (2×15 mL) and the organic extracts were combined, dried over sodium sulphate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 1:1 EtOAc in heptanes to afford the title compound (250 mg, 75%).

reactant | 2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.72 mmol, 325 mg | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C#N)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C23H22BClN4O3
reactant | 2-chloro-3-fluoro-6-(methoxymethyl)pyridine | 1.09 mmol, 191 mg | ClC1=NC(=CC=C1F)COC | C7H7ClFNO
reactant | potassium carbonate | 1.45 mmol, 200 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.072 mmol, 83 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-5-(3-fluoro-6-(methoxymethyl)pyridin-2-yl)benzamide | 250 mg, 75% | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C#N)C=C(C=C1)C1=NC(=CC=C1F)COC | C24H17ClFN5O2
